US06358948B1
A mixture of (4-amino-3′-chloro-biphenyl-3-yl)-dimethyl-methanol (0.46 g, 1.8 mmol), acetone (0.16 g, 2.7 mmol), and p-toluenesulfonic acid (0.017 g, 0.09 mmol) in dry toluene (6 mL) was heated at 33° C. under a blanket of nitrogen overnight. Upon completion of the reaction, the toluene was removed and the compound purified via a flash chromatography (silica gel, 15% ethyl acetate/hexane) to give 6-(3-chloro-phenyl)-2,2,4,4-tetramethyl-1,4-dihydro-2H-benzo[d][1,3]oxazine (0.36 g, 68%) as a yellow oil. The oil was dissolved in ether at −78° C. and then treated with a solution of 1N HCl in ether to give the hydrochloride salt of the title compound as a yellow solid: 1H-NMR (DMSO-d6) δ 7.70 (bs, 1H), 7.61 (d, 1H, J=7.82 Hz), 7.52 (bs, 1H), 7.44 (m, 2H), 7.33 (d, 1H, J=8.21 Hz), 6.87 (d, 1H, J=7.85 Hz), 1.5 (s, 6H), 1.4 (s, 6H); MS (ESI) m/z 302 ([M+H]+, 100%); Anal. Calc. For C18H20ClNO: C, 63.91; H, 6.26; N, 4.14. Found: C, 64.08; H, 6.43; N, 4.14.

reactant | (4-amino-3′-chloro-biphenyl-3-yl)-dimethyl-methanol | 1.8 mmol, 0.46 g | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(O)(C)C | C15H16ClNO
reactant | acetone | 2.7 mmol, 0.16 g | CC(=O)C | C3H6O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.09 mmol, 0.017 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 6-(3-chloro-phenyl)-2,2,4,4-tetramethyl-1,4-dihydro-2H-benzo[d][1,3]oxazine | 0.36 g, 68% | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C)(C)C)C=C1 | C18H20ClNO
